US06008265
To 40 g of allyloxybenzene in 50 ml of acetic acid are added dropwise 78.4 g of phenyliodosotoluene sulfonate in 100 ml of acetic acid and the mixture is stirred at room temperature for 2 hours. The reaction mixture is poured into 1l of dioxane, the precipitate of (allyloxyphenyl)-phenyliodonium toluenesulfonate obtained is washed with ether and dried. Conversion into bis-fluorosulfonylimide is carried out by mixing 15 g of (allyloxyphenyl)-phenyliodonium toluenesulfonate and 7 g of KN(SO2F)2 in 150 ml of water at 0° C. The salt is extracted with 2×50 ml of dichloromethane and the solvent is evaporated. The residual salt (consisting of (allyloxyphenyl)-phenyliodonium bis-fluorosulfonylimide) is diluted with 60 ml of THF and is introduced into a three-neck flask provided with a cooler, a mechanical stirrer and a neutral gas inlet (Argon), said flask containing 8.5 g of a copolymer of dimethylsiloxane and (hydrogeno)(methyl)-siloxane (HMS 301 25% SiH, Mw 1900 sold by Gelest Inc., Tullytown, Pa., U.S.A.) in solution in 60 ml of THF and 90 mg of chloroplatinic acid H2PtCl6. The mixture was heated under reflux for 2 hours. 1 g of 1-hexene was thereafter added and the reaction was continued for 1 hour. A sampling enables to confirm the complete disappearance of IR bands of the SiH bond which confirms hydrosilylation between the allyl groups of (allyloxyphenyl)-phenyliodonium bis-fluorosulfonylimide and groups SiH of the copolymer of dimethylsiloxane and (hydrogeno)(methyl)-siloxane. The polymer thus obtained which contains ionic pendant groups is precipitated in methanol and purified by means of three operations of dissolution (THF)/precipitation (methanol and ether).

reactant | allyloxybenzene | 40 g | C(C=C)OC1=CC=CC=C1 | C9H10O
reactant | phenyliodosotoluene sulfonate | 78.4 g | C1(=CC=CC=C1)C=1C(=C(C(=CC1)C)S(=O)(=O)[O-])I=O
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | (allyloxyphenyl)-phenyliodonium toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)[O-])C.C(C=C)OC1=C(C=CC=C1)[I+]C1=CC=CC=C1 | InChI=1S/C15H14IO.C7H8O3S/c1-2-12-17-15-11-7-6-10-14(15)16-13-8-4-3-5-9-13;1-6-4-2-3-5-7(6)11(8,9)10/h2-11H,1,12H2;2-5H,1H3,(H,8,9,10)/q+1;/p-1
